US08389743B2
3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid methyl-(3-methyl-pyridin-2-ylmethyl)-amide
To a solution of crude intermediate 17, 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (˜4.3 mL ˜0.65 mmol) was added methyl-(3-methyl-pyridin-2-ylmethyl)-amine (176 mg, 1.29 mmol) and T3P (50% solution in EtOAc, 0.62 ml, 0.97 mmol). The resulting reaction mixture was stirred at RT for 1 hr and then 25 ml of 1N NaOH and 100 ml of EtOAc were added and the layers were separated. The aqueous layer was subjected to EtOAc extraction (2×60 ml) again and the combined organic layers were dried over MgSO4 and evaporated. The residue was purified by flash column chromatography using a 40 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 containing 0.25% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound 127 mg, 46% yield). Rf=0.30 (15% MeOH/CH2Cl2+0.2% NH4OH); LRMS m/z Calcd for C24H30Cl N3 O2, 427.9, found, 428.2 (M+1) APCI; 400 MHz 1H NMR (CDCl3) 2:1 mixture of rotomers, diagnostic peaks, δ 4.72, 4.53 (s, 2H), 3.72 & 3.70 (s, 2H), 2.97, 2.93 (s, 3H), 1.76-1.74 (m, 4H); 100 MHz 13C NMR (CDCl3) 2:1 mixture of rotomers, diagnostic peaks δ 177.6, 175.7, 154.7, 153.6, 146.8, 146.6, 126.5, 126.4, 122.8, 122.7, 73.4, 73.2, 56.7, 56.6, 54.3, 54.2, 51.1, 41.4, 40.9, 35.6, 35.4, 28.9, 28.7, 23.7, 23.6, 18.3, 18.2.

reactant | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ˜0.65 mmol, ˜4.3 mL | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
reactant | methyl-(3-methyl-pyridin-2-ylmethyl)-amine | 1.29 mmol, 176 mg | CNCC1=NC=CC=C1C | C8H12N2
reactant | T3P | 0.97 mmol, 0.62 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid methyl-(3-methyl-pyridin-2-ylmethyl)-amide | 127 mg, 46% yield | CN(C(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)Cl)CC1=NC=CC=C1C | C24H30ClN3O2
